US09216986B1
6-[2-(5,8-Dimethyl-[1,2,4]triazolo[1,5-a]pyrazin-2-yl)-ethyl]-1,3-dioxolo[4,5-g]quinoline
6-[(E)-2-(5,8-Dimethyl-[1,2,4]triazolo[1,5-a]pyrazin-2-yl)-vinyl]-1,3-dioxolo[4,5-g]quinoline (0.183 g, 0.530 mmol) was dissolved in N,N-Dimethylformamide (11 mL, 140 mmol). [B] p-Toluenesulfonylhydrazide (0.296 g, 1.59 mmol; Supplier=Avocado) was added and the reaction was stirred at 130° C. under an atmosphere of Argon ON. LCMS was done and showed almost complete conversion. 0.100 g [B] was added to the mixture was stirred 2 days at 130 C.

reactant | 6-[(E)-2-(5,8-Dimethyl-[1,2,4]triazolo[1,5-a]pyrazin-2-yl)-vinyl]-1,3-dioxolo[4,5-g]quinoline | 0.530 mmol, 0.183 g | CC1=CN=C(C=2N1N=C(N2)/C=C/C2=NC=1C=C3C(=CC1C=C2)OCO3)C | C19H15N5O2
reactant | N,N-Dimethylformamide | 140 mmol, 11 mL | CN(C=O)C | C3H7NO
product | 6-[2-(5,8-Dimethyl-[1,2,4]triazolo[1,5-a]pyrazin-2-yl)-ethyl]-1,3-dioxolo[4,5-g]quinoline | CC1=CN=C(C=2N1N=C(N2)CCC2=NC=1C=C3C(=CC1C=C2)OCO3)C | C19H17N5O2
